US07332508B2
1-Isopropyl-4-[5-cyclohexyl[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride
The title compound was prepared by a similar procedure to that described in Example 56, starting from 1-isopropyl-N-hydroxypiperidine-4-carboxamidine and cyclohexanecarbonyl chloride.

reactant | 1-isopropyl-N-hydroxypiperidine-4-carboxamidine | C(C)(C)N1CCC(CC1)C(=N)NO | C9H19N3O
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | 1-Isopropyl-4-[5-cyclohexyl[1,2,4]oxadiazol-3-yl]piperidine, Hydrochloride | Cl.C(C)(C)N1CCC(CC1)C1=NOC(=N1)C1CCCCC1 | InChI=1S/C16H27N3O.ClH/c1-12(2)19-10-8-13(9-11-19)15-17-16(20-18-15)14-6-4-3-5-7-14;/h12-14H,3-11H2,1-2H3;1H
